US07598423B2
Synthesis of N-hydroxy-2-(4-methoxy-phenoxy)-acetamidine
Add sodium acetate (5.1 g, 62 mmol) to 4-methoxyphenoxyacetonitrile (5.0 g, 31 mmol) and hydroxylamine hydrochloride (4.3 g, 62 mmol) in methanol (100 mL). Stir the resulting mixture at room temperature for 20 hours. Filter the resulting mixture through Celite, concentrate, stir in chloroform for 18 hours and filter. Concentrate the resulting solution to the title compound (5.1 g). LC-MS (m/e): 197 (M+1).

reactant | sodium acetate | 62 mmol, 5.1 g | C(C)(=O)[O-].[Na+]
reactant | 4-methoxyphenoxyacetonitrile | 31 mmol, 5.0 g | COC1=CC=C(OCC#N)C=C1 | C9H9NO2
reactant | hydroxylamine hydrochloride | 62 mmol, 4.3 g | Cl.NO
solvent | methanol | 100 mL | CO | CH4O
product | N-hydroxy-2-(4-methoxy-phenoxy)-acetamidine | ONC(COC1=CC=C(C=C1)OC)=N | C9H12N2O3
